Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],0.984122399889
[H:1][C:2]1([H:3])[O:4][O:5]1>>[H:1][C:2]([H:3])[O:5][O:4],1.12818658
[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.25732447586
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.98132945565
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][H:7]>>[C:3]([H:4])#[C:5][O:6][H:7].[O:1]=[C:2],0.25958963450100003
[C:1].[C:2]#[C:3]>>[C:1][C:2]#[C:3],-8.04010888125
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[O:9][H:10],3.2949009082
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14],8.26989636954
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:4],2.63670893974
[C:2]([H:3])#[C:7][H:8].[O:1][C:5](=[O:4])[H:6]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8],-1.40267292843
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.55752452979
[C:1]#[C:2].[C:3]#[C:4][C:5](=[O:6])[H:7]>>[C:1]#[C:2][C:3]#[C:4][C:5](=[O:6])[H:7],-7.22333541851
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.83563232787
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],3.89315276171
[H:1][C:2]([C:3][C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2](=[C:3]=[C:4]1[C:5][C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.67253998556
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-4.836269929009999
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.67727787986
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.05617222417
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.78029315251
[C:4]([H:5])([H:6])=[C:7].[H:1][C:2]#[C:3][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-2.86798085879
[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.86467534745
[H:7].[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.79268404762
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.7407282881
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[C:10]([H:11])([H:12])[H:13],-3.03914512085
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],1.59656920558
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2],10.61077175
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.9950380602
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4]#[C:5],7.275789952939999
[C:1]#[C:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],7.37768297183
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],6.233041693350001
